US07432258B2
f) 2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methyl-N-[(1R)-1-[3′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethyl]acetamide
(1R)-N-Methyl-1-[3′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethanamine (3.3 g, 10 mmol) was dissolved in 100 mL of DMF at room temperature with magnetic stirring. The resulting solution was treated with (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid (4.3 g, 12 mmol, with 23 wt % LiCl) followed by triethylamine (2.8 mL, 20 mmol) and BOP (5.3 g, 12 mmol). The reaction mixture was maintained at room temperature for 16 h. The reaction mixture was filtered and the filtrate was added slowly to of H2O (300 mL) with vigorous stirring. The precipitate which formed was collected by filtration and further purified by silica gel chromatography (120 g Redisep column, silica, 40 um, 60 Å, 80 mL/min, A: MeOH (with 10% NEt3), B: CH2Cl2, A: 1% for 20 min, 2% for 20 min, 5% for 10 min; detection at 254 nm). The combined fractions were concentrated, and the resulting residue was triturated with MeOH. The white solid was collected by filtration to give the title compound (2.7 g, 46%). MS (ES) m/e 585 [M+H]+.

reactant | (1R)-N-Methyl-1-[3′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethanamine | 10 mmol, 3.3 g | CN[C@@H](CN1CCOCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C20H26N2O2
reactant | (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid | 12 mmol, 4.3 g | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)O)C1)Cl | C10H7Cl2NO4
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 12 mmol, 5.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methyl-N-[(1R)-1-[3′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethyl]acetamide | 2.7 g, 46% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N([C@@H](CN2CCOCC2)C2=CC=C(C=C2)C2=CC(=CC=C2)OC)C)C1)Cl | C30H31Cl2N3O5
